US04715994
1-Aminoethyl-[2-carboxy-5-cyclohexyl-1-n-pentyl]-phosphinic acid
By methods outlined in Example 2 and using methyl-2-[3-cyclohexyl-1-propyl]acrylate was prepared methyl-1-benzyloxycarbonylaminoethyl-[2-carbomethoxy-5-cyclohexyl-1-n-pentyl]phosphinate. NMR (CDCl3) δ 0.8-3.1 (m, 23H); 3.6 (s, 3H); 3.6 (d, 3H); 3.6-4.2 (m, 1H); 5.0 (s, 2H); 5.2 (d, 0.5H); 5.5 (d, 0.5H); 7.2 (s, 5H).

reactant | methyl-2-[3-cyclohexyl-1-propyl]acrylate | COC(C(=C)CCCC1CCCCC1)=O | C13H22O2
reactant | methyl-1-benzyloxycarbonylaminoethyl-[2-carbomethoxy-5-cyclohexyl-1-n-pentyl]phosphinate | COP(=O)(CC(CCCC1CCCCC1)C(=O)OC)C(C)NC(=O)OCC1=CC=CC=C1 | C24H38NO6P
product | 1-Aminoethyl-[2-carboxy-5-cyclohexyl-1-n-pentyl]-phosphinic acid | NC(C)P(O)(=O)CC(CCCC1CCCCC1)C(=O)O | C14H28NO4P
